US04083983
N-Cyano-N'-methyl-N"-[2-((3-ethoxy-2-pyridyl)methylthio)ethyl]guanidine.
Methylamine in ethanol (33%, 10 cc) was added to a stirred suspension of N-cyano-N'-[2-((3-ethoxy-2-pyridyl)methylthio)ethyl]-S-methylisothiourea (1.0 g) in ethanol (5 cc) and the mixture was left to stand overnight. Nitrogen was bubbled through the solution for one hour and the solution was concentrated and crystals which deposited were filtered off and recrystallised from ethanol/ether to give the title product (0.7 g) m.p. 126.5°-127.5°.

reactant | Methylamine | CN | CH5N
reactant | N-cyano-N'-[2-((3-ethoxy-2-pyridyl)methylthio)ethyl]-S-methylisothiourea | 1.0 g | C(#N)NC(SC)=NCCSCC1=NC=CC=C1OCC | C13H18N4OS2
solvent | ethanol | 10 cc | C(C)O | C2H6O
solvent | ethanol | 5 cc | C(C)O | C2H6O
product | N-Cyano-N'-methyl-N"-[2-((3-ethoxy-2-pyridyl)methylthio)ethyl]guanidine | 0.7 g | C(#N)NC(=NCCSCC1=NC=CC=C1OCC)NC | C13H19N5OS
